US04230707
A mixture of 18.5 g (0.1 mol) of 4-amino-2,5-dimethyl-3-thiophenecarboxylic acid, methyl ester and 15.76 g (0.1 mol) of 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company) is heated in a wax bath at 168°-186° C. for one hundred ten minutes and then at 185°-186° C. for ninety minutes under nitrogen. The mixture is cooled, suspended in hot methanol, cooled and 4.2 g of crude product is collected. This material is dissolved in hot pyridine, activated charcoal (Darco-G60, Matheson, Coleman and Bell) is added and the hot suspension is filtered through Supercell Hyflo® (Johns-Manville). The filtrate is cooled to give 1.75 g of 1,3-dimethyl-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid; mp 336° C. (dec) after recrystallization from pyridine.

reactant | 4-amino-2,5-dimethyl-3-thiophenecarboxylic acid, methyl ester | 0.1 mol, 18.5 g | NC=1C(=C(SC1C)C)C(=O)OC | C8H11NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | 0.1 mol, 15.76 g | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
solvent | methanol | CO | CH4O
product | 1,3-dimethyl-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | 1.75 g | CC=1SC(=C2N=C3N(C(C21)=O)C=C(C=C3)C(=O)O)C | C13H10N2O3S
